US07399868B2
A solution of 4-thiophen-2-ylmethyl-imidazole-1-sulfonic acid dimethylamide (Intermediate-E2) (0.44 g) in 1.5 M HCl (10 mL) was heated to reflux for 3 h. The mixture was cooled to rt and basified with NaOH solution; The mixture was extracted with ethyl acetate (2×) and the organic solution was dried over Na2SO4, filtered and evaporated to give 4-thiophen-2-ylmethyl-1H-imidazole (Intermediate-E3) as a white solid ˜0.2 g.

reactant | 4-thiophen-2-ylmethyl-imidazole-1-sulfonic acid dimethylamide | 0.44 g | CN(S(=O)(=O)N1C=NC(=C1)CC=1SC=CC1)C | C10H13N3O2S2
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 1.5 M, 10 mL | Cl | ClH
product | 4-thiophen-2-ylmethyl-1H-imidazole | ˜0.2 g | S1C(=CC=C1)CC=1N=CNC1 | C8H8N2S
